US06545016B1
A solution of N-{2-[(3-amino-5,6-dimethyl-2-phenoxypyridin-4-yl)amino]-1,1-dimethylethyl}acetamide (1.80 g, 5.23 mmol) in 50 mL of CH2Cl2 was cooled to 0° C., under N2, and treated with triethylamine (728 μL, 5.23 mmol) and ethoxyacetyl chloride (574 μL, 5.23 mmol). After stirring overnight, the reaction mixture was concentrated under reduced pressure. The resulting syrup was taken up in 50 mL of EtOH and treated with 3 mL of triethylamine. The solution was heated to reflux for 4 d. The reaction mixture was then concentrated and redissolved in 50 mL of xylenes and treated with pyridinium hydrochloride (0.5 g) and the mixture was heated to reflux for 4 d. The reaction mixture was concentrated and taken up in 100 mL of EtOAc and washed with saturated NaHCO3 solution, H2O (2×) and brine. The organic portion was dried over Na2SO4 and concentrated. The resulting syrup was purified by column chromatography (SiO2, 80% EtOAc/hexanes) to give N-{2-[2-(ethoxymethyl)-6,7-dimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]-1,1-dimethylethyl}acetamide (980 mg) as a mustard colored foam.

reactant | N-{2-[(3-amino-5,6-dimethyl-2-phenoxypyridin-4-yl)amino]-1,1-dimethylethyl}acetamide | 5.23 mmol, 1.80 g | NC=1C(=NC(=C(C1NCC(C)(C)NC(C)=O)C)C)OC1=CC=CC=C1 | C19H26N4O2
reactant | triethylamine | 5.23 mmol, 728 μL | C(C)N(CC)CC | C6H15N
reactant | ethoxyacetyl chloride | 5.23 mmol, 574 μL | C(C)OCC(=O)Cl | C4H7ClO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-{2-[2-(ethoxymethyl)-6,7-dimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]-1,1-dimethylethyl}acetamide | 980 mg | C(C)OCC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CC(C)(C)NC(C)=O | C23H30N4O3
